US08258144B2
4-(4-methoxyphenylamino)-2-(2-oxo-1,2,3,4-tetrahydroquinolin-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile
A mixture of 2-chloro-4-(4-methoxyphenylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile (68 mg, 0.15 mmol), 6-amino-3,4-dihydroquinolin-2(1H)-one (40 mg, 0.24 mmol) and trimethylsilyl chloride (0.100 mL, 0.790 mmol) in nBuOH (2 mL) was stirred at 135° C. for 20 h. More 6-amino-3,4-dihydroquinolin-2(1H)-one (24 mg, 0.15 mmol) and trimethylsilyl chloride (0.200 mL, 1.58 mmol) were added. It was stirred at 135° C. for another 20 h. nBuOH was removed in vacuo. The residue was purified by HPLC to give the titled compound (5 mg). MS 426.4 (M+H); UV 203.5, 290.3 nm.

reactant | 2-chloro-4-(4-methoxyphenylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile | 0.15 mmol, 68 mg | ClC=1N=C(C2=C(N1)N(C=C2C#N)S(=O)(=O)C2=CC=C(C)C=C2)NC2=CC=C(C=C2)OC | C21H16ClN5O3S
reactant | 6-amino-3,4-dihydroquinolin-2(1H)-one | 0.24 mmol, 40 mg | NC=1C=C2CCC(NC2=CC1)=O | C9H10N2O
reactant | trimethylsilyl chloride | 0.790 mmol, 0.100 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | 6-amino-3,4-dihydroquinolin-2(1H)-one | 0.15 mmol, 24 mg | NC=1C=C2CCC(NC2=CC1)=O | C9H10N2O
reactant | trimethylsilyl chloride | 1.58 mmol, 0.200 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | nBuOH | 2 mL | C(CCC)O | C4H10O
product | 4-(4-methoxyphenylamino)-2-(2-oxo-1,2,3,4-tetrahydroquinolin-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile | 5 mg | COC1=CC=C(C=C1)NC=1C2=C(N=C(N1)NC=1C=C3CCC(NC3=CC1)=O)NC=C2C#N | C23H19N7O2
